US06872833B2
(+)-2-Diethylaminomethyl-N-(7-[1,4]dioxan-2-yl-4-methoxy-benzothiazol-2-yl)-isonicotinamide
From (+)-2-chloromethyl-N-(7-[1,4]dioxan-2-yl-4-methoxy-benzothiazol-2-yl)-isonicotinamide with cesium carbonate and diethylamine. [α]D20=+48.9° (c=1.02, CHCl3), ES-MS m/e (%): 457 (M+H+, 100).

reactant | (+)-2-chloromethyl-N-(7-[1,4]dioxan-2-yl-4-methoxy-benzothiazol-2-yl)-isonicotinamide | ClCC=1C=C(C(=O)NC=2SC3=C(N2)C(=CC=C3C3OCCOC3)OC)C=CN1 | C19H18ClN3O4S
reactant | cesium carbonate | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | diethylamine | C(C)NCC | C4H11N
solvent | CHCl3 | C(Cl)(Cl)Cl | CHCl3
product | (+)-2-Diethylaminomethyl-N-(7-[1,4]dioxan-2-yl-4-methoxy-benzothiazol-2-yl)-isonicotinamide | C(C)N(CC)CC=1C=C(C(=O)NC=2SC3=C(N2)C(=CC=C3C3OCCOC3)OC)C=CN1 | C23H28N4O4S
